* source H2
Q_Q1         N00981 BE N00403 BC368 
C_C2         N15392 BE  1u  
R_RB3         N13389 N13836  480k  
R_RB4         0 N13389  160k  
R_RE3         0 N00403  3k  
V_V1         N14754 0  
+SIN 0 3.7 10kHz 0 0 0
R_RB5         BE N13836  97.2k  
R_RE6         0 BE  360k  
R_RC2         0 N15392  0.245k  
Q_Q2         N15392 N13389 N15015 Q2N4355
R_Re         0 N02275  1.81k  
R_RE2         N15015 N13836  0.75k  
R_RC3         N00981 N13836  0.9k  
V_VDC         N13836 0 10Vdc
C_C3         N14754 N13389  1u  
C_C1         N00403 N02275  1u IC=0 
