* source TEST
V_VDC         N01120 0 10Vdc
C_c2         N06020 N05872  1u  
Q_q3         N05866 N05872 N05960 BC368 
R_RB4         0 N05137  160k  
R_RC2         0 N04643  1.27k  
C_c1         N05960 VOUT  1u  
R_r12         N05872 N05762  94k  
R_RC3         N01373 N01120  0.9k  
R_RE2         N05014 N01120  0.75k  
Q_Q3         N01373 N01175 N01237 BC368 
R_RB5         N01175 N01120  97.2k  
R_RB3         N05137 N01120  480k  
R_r3         0 N05960  3k  
V_Vdc         N05762 0 10Vdc
C_C3         N05272 N05137  1u  
R_RB6         0 N01175  360k  
R_rB6         0 N05872  360k  
R_RE3         0 N01237  3k  
V_V4         N06020 0 DC 0Vdc AC 1Vac 
V_V3         N05272 0  
+SIN 0 1 10k 0 0 0
R_Re         0 VOUT  1.81k  
C_C1         N01237 VOUT  1u  
C_C2         N04643 N01175  1u  
R_rE         0 VOUT  2k  
Q_Q4         N04643 N05137 N05014 Q2N4355
R_rC3         N05866 N05762  0.9k  
