* source H1
R_RB5         N01175 N17856  97.02k  
V_VDC         N17856 0 10Vdc
R_Re         0 VOUT  1.81k  
R_RB6         0 N01175  360k  
R_RE3         0 N18070  3k  
V_V2         VI 0  
+SIN 0 0.1 10kHz 0 0 0
Q_Q3         N18112 N01175 N18070 BC368 
C_C1         N18070 VOUT  1u  
C_C2         VI N01175  1u  
R_RC3         N18112 N17856  0.9k  
